US03983164
4-Aminocarbonylphenoxy-phenyl methane
A mixture of 4-cyanophenoxy phenyl methane (10.45g.; 0.05 mole), 30% hydrogen peroxide (20ml) and 6N NaOH (20ml) and ethanol (30ml) was maintained at 40°-50° for 3 hrs., cooled and neutralised. The product was filtered off and recrystallised from ethanol M.p. 186°-7°.

reactant | 4-cyanophenoxy phenyl methane | 0.05 mole, 10.45g | C(#N)C1=CC=C(OCC2=CC=CC=C2)C=C1 | C14H11NO
reactant | hydrogen peroxide | 20ml | OO | H2O2
reactant | NaOH | 6N, 20ml | [OH-].[Na+]
solvent | ethanol | 30ml | C(C)O | C2H6O
product | 4-Aminocarbonylphenoxy-phenyl methane | NC(=O)C1=CC=C(OCC2=CC=CC=C2)C=C1 | C14H13NO2
